US07498440B2
Preparation of 4-[hydroxy(di-2-naphthalenyl)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(di-2-naphthalenyl)methanol (0.063.7 g, 0.162 mmol) and 2-bromoethyl phenylmethyl ether (0.0384 mL, 0.243 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0246 g, 25.0%). EI-MS m/z 528(M+) Rt (2.36 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-2-naphthalenyl)methanol | 0.162 mmol | N12CCC(CC1)(CC2)C(O)(C2=CC1=CC=CC=C1C=C2)C2=CC1=CC=CC=C1C=C2 | C28H27NO
reactant | 2-bromoethyl phenylmethyl ether | 0.243 mmol, 0.0384 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(di-2-naphthalenyl)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0246 g, 25.0% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOCC2=CC=CC=C2)(C2=CC1=CC=CC=C1C=C2)C2=CC1=CC=CC=C1C=C2 | InChI=1S/C37H38NO2.BrH/c39-37(34-16-14-30-10-4-6-12-32(30)26-34,35-17-15-31-11-5-7-13-33(31)27-35)36-18-21-38(22-19-36,23-20-36)24-25-40-28-29-8-2-1-3-9-29;/h1-17,26-27,39H,18-25,28H2;1H/q+1;/p-1
